US04904692
Step 1: Preparation of 3-(4-fluorobenzylidene)bicyclo[2.2.2]oct-5-en-2-one
A solution of bicyclo[2.2.2]oct-5-en-2-one (J. Oro. Chem. 33, 2211 (1968)) (3.34 g, 27.4 mmoles), 4-fluorobenzaldehyde (3.08 ml, 28.7 mmoles) and KOH (2 pellets) in 10 ml of 2-propanol was heated at 60° C. for 1.5 hours, cooled to room temperature and diluted with H2O and ether. The organic layer was washed with H2O, 2% aqueous HCl, saturated NaHCO3 and brine and dried (MgSO4). Removal of the volatiles in vacuo provided a residue which was recrystallized with hexanes. mp 85°-86° C.

reactant | bicyclo[2.2.2]oct-5-en-2-one | 27.4 mmoles, 3.34 g | C12C(CC(C=C1)CC2)=O | C8H10O
reactant | 4-fluorobenzaldehyde | 28.7 mmoles, 3.08 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | KOH | [OH-].[K+]
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
solvent | H2O | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-(4-fluorobenzylidene)bicyclo[2.2.2]oct-5-en-2-one | FC1=CC=C(C=C2C(C3C=CC2CC3)=O)C=C1 | C15H13FO
